US05466701
A solution of 2.aminosulfonyl-6-isopropyl-4-methoxy-N,N-diethylbenzamide (429.6 g) in acetic acid (1.5 L) was refluxed for 20 hours, then cooled to room temperature. The solvent was removed under vacuum. The oily residue was dissolved in water (6 L) and the pH was adjusted to 1 with hydrochloric acid (6N). The crude product was collected by filtration, washed with water (2 L), dried at 60° C. under vacuum for 18 hours and recrystallized from ethyl acetate-hexane to give 4-isopropyl-6-methoxysaccharin (303 g, 91% yield, m.p. 188° C.).

reactant | aminosulfonyl-6-isopropyl-4-methoxy-N,N-diethylbenzamide | 429.6 g | NS(=O)(=O)C1=C(C(=O)N(CC)CC)C(=CC(=C1)OC)C(C)C | C15H24N2O4S
solvent | acetic acid | 1.5 L | C(C)(=O)O | C2H4O2
product | 4-isopropyl-6-methoxysaccharin | 303 g, 91% yield | C(C)(C)C1=C2C(NS(=O)(=O)C2=CC(=C1)OC)=O | C11H13NO4S
